US05753664
3,5-Dimethyl-2-[4-[4-[2-(2-dimethylaminoethylamino)ethoxy]benzoyl]benzylthio]-4(3H)-quinazolinone dihydrochloride
A solution of 2-[4-[4-(2-chloroethoxy)benzoyl]-benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (237 mg) and 2-dimethylaminoethylamine (1.1 ml) in DMF (5 ml) was stirred at 100° C. for 7 hours. This reaction mixture was concentrated and the residue was purified by silica gel column chromatography (dichloromethane: methanol: aqueous ammonia =9:1:0.1) and treated with hydrogen chloride/ethyl acetate to provide the title compound as colorless solid (104 mg).

reactant | 2-[4-[4-(2-chloroethoxy)benzoyl]-benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 237 mg | ClCCOC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C26H23ClN2O3S
reactant | 2-dimethylaminoethylamine | 1.1 ml | CN(CCN)C | C4H12N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-[2-(2-dimethylaminoethylamino)ethoxy]benzoyl]benzylthio]-4(3H)-quinazolinone dihydrochloride | 104 mg | Cl.Cl.CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCNCCN(C)C)=O | InChI=1S/C30H34N4O3S.2ClH/c1-21-6-5-7-26-27(21)29(36)34(4)30(32-26)38-20-22-8-10-23(11-9-22)28(35)24-12-14-25(15-13-24)37-19-17-31-16-18-33(2)3;;/h5-15,31H,16-20H2,1-4H3;2*1H
